US05468748
9-Morpholino-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione
9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione (0.50 g, 2.13 mmol) was suspended in 5 ml of dry tetrahydrofuran, while cooling in an ice bath. Morpholine(0.37 ml, 4.27 mmol) dissolved in 2 ml of dry tetrahydrofuran was added over 2 min. After 1 hour the ice bath was removed and stirring was continued for 20 hours at room temperature. The precipitate was filtered off and washed with tetrahydrofuran, 10% acetic acid, water and dried to give 0.365 g of the crude product. Recrystallization from ethanol afforded 0.257 g (42%) of the title compound. M.p. 265°-267° C. 1H-NMR (DMSO-d6, δ): 2.47 (m, 2H), 2.61 (m, 2H), 3.56 (m, 4H), 4.54 (s, 1H), 7.13 (t, 1H), 7.3 (t, 1H), 7.47 (d, 1H), 7.53 (d, 1H), 11.8 (s, 1H), 12.25 (s, 1H).

reactant | 9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 2.13 mmol, 0.50 g | ClC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H7ClN2O2
reactant | Morpholine | 4.27 mmol, 0.37 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 9-Morpholino-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 0.257 g, 42% | O1CCN(CC1)C1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C15H15N3O3
